MARV input power: external regulated 5 V and USB, through the actual Q1/D1 OR
* Only the input network is simulated. Downstream regulators are a lumped load.
* External 5 V can come from a 2S-6S buck or a 1S boost: same board interface.
* Sources have assumed resistance, but no converter loop or current limit.
* @...@ fields are filled by tools/simulate_power_input.py.
.include "@MODELS@/AO3401A.mod"
.include "@MODELS@/diodes.lib"
.param VEXT=@VEXT@ VUSB=@VUSB@ REXT=@REXT@ RUSB=@RUSB@
.model CONNECT SW(Ron=0.001 Roff=1e12 Vt=0.5 Vh=0.1)

* Opening a source switch means unplugging it, not shorting the input to 0 V.
Vext ext0 0 PWL(0 0 0.1m 0 1.1m {VEXT} 20m {VEXT})
Rext ext0 ext1 {REXT}
Sext ext1 n5vin extctl 0 CONNECT
Vextctl extctl 0 @EXT_CONTROL@
Vusb usb0 0 PWL(0 0 0.1m 0 1.1m {VUSB} 20m {VUSB})
Rusb usb0 usb1 {RUSB}
Susb usb1 usbvbus usbctl 0 CONNECT
Vusbctl usbctl 0 @USB_CONTROL@

* Current schematic: Q1 drain=5V_IN, gate=USB_VBUS, source=V5_SYS.
XQ1 n5vin usbvbus q1source AO3401A
Vq1 q1source v5sys 0
D1 usbvbus d1cathode D1N5819WS_MAX
Vd1 d1cathode v5sys 0
C19 n5vin c19esr 100u
Resr19 c19esr 0 0.04
Rbleed n5vin 0 10meg
C7 usbvbus 0 1u
R7 usbvbus 0 100k
R29 usbvbus vbus_sense 10k
R30 vbus_sense 0 15k
C49 vbus_sense 0 100n
R56 usbvbus led_anode 1k
D21 led_anode 0 DLEDWHITE
* C8 10u + C25 1u + C79 100n, nominal; no layout parasitics.
Csys v5sys 0 11.1u
Rsys v5sys 0 1meg

* Demand is current at V5_SYS, NOT 3.3 V output current or the source rating.
* Voltage taper prevents an unpowered ideal current sink pulling a rail negative.
Vdemand demand 0 @LOAD@
Bload v5sys 0 I=v(demand)*max(v(v5sys),0)/max(v(v5sys),1)
* Optional external 5 V module/servo demand, bypassing the OR.
Bexternal n5vin 0 I=@EXTERNAL_LOAD@*min(time/2m,1)*max(v(n5vin),0)/max(v(n5vin),1)

Bextdraw extdraw 0 V=-i(Vext)
Busbdraw usbdraw 0 V=-i(Vusb)
Bbackusb backusb 0 V=max(-i(Vd1),0)
Bbackext backext 0 V=max(-i(Vq1),0)
Bpq1 pq1 0 V=(v(n5vin)-v(v5sys))*i(Vq1)
Bpd1 pd1 0 V=(v(usbvbus)-v(v5sys))*i(Vd1)
.options method=gear reltol=0.001
.tran 0.5u 20m uic
.meas tran before AVG v(v5sys) FROM=7m TO=7.9m
.meas tran event_min MIN v(v5sys) FROM=8m TO=12m
.meas tran event_max MAX v(v5sys) FROM=8m TO=12m
.meas tran final AVG v(v5sys) FROM=19m TO=20m
.meas tran external_min MIN v(n5vin) FROM=8m TO=12m
.meas tran external_final AVG v(n5vin) FROM=19m TO=20m
.meas tran ext_final AVG v(extdraw) FROM=19m TO=20m
.meas tran usb_final AVG v(usbdraw) FROM=19m TO=20m
.meas tran usb_reverse MAX v(backusb) FROM=2.2m TO=20m
.meas tran ext_reverse MAX v(backext) FROM=2.2m TO=20m
.meas tran q1_w AVG v(pq1) FROM=19m TO=20m
.meas tran d1_w AVG v(pd1) FROM=19m TO=20m
.control
run
set wr_singlescale
set wr_vecnames
wrdata "@WAVEFORM@" v(v5sys) v(n5vin) v(usbvbus) v(extdraw) v(usbdraw)
.endc
.end
